US09062076B2
A solution of (E)-2-[[3-(3-hydroxy-4-methoxyphenyl)-1-oxo-2-propenyl]amino]benzoic acid (0.5 g, 1.6 mmol) in acetic anhydride (3 mL) was heated to reflux and stirred for 3 h. The reaction was cooled to rt and the resulting suspension was diluted with water. The suspension was stirred at it for 1 h and the precipitate was collected by filtration, providing (E)-2-(3-acetoxy-4-methoxystyryl)-4H-benzo[d][1,3]oxazin-4-one (0.50 g, 93%) as a yellow solid; mp 187-190° C.; δH (400 MHz, DMSO-d6) 2.80 (s, 3H, COCH3), 3.83 (s, 3H, OCH3), 6.87 (d, J=16.0 Hz, 1H, CH═CHCO), 7.19 (d, J5′,6=8.0 Hz, 1H, H5′), 7.68 (d, J5′,6=8.0, 1H, H6′), 7.57 (t, J3,4=J4,5=8.0 Hz, 1H, H4), 7.60 (d, J3,4=8.0 Hz, 1H, H3), 7.66 (s, 1H, H2′), 7.71 (d, J=16.0 Hz, 1H, CH═CHCO), 7.89 (t, J4,5=J5,6=8.0 Hz, 1H, H5), 8.10 (d, J5,6=8.0 Hz, 1H, H6); δC (100 MHz, DMSO-d6) 20.4, 56.1, 112.9, 116.7, 117.6, 122.1, 127.5, 128.0, 128.1, 128.2, 136.8, 139.6, 140.2, 146.7, 152.7, 157.0, 158.8, 168.4; HRMS (ESI) calculated for C19H15NO5 [M+H]+ 338.1023, found 338.1023; νmax 1197, 1268, 1588, 1631, 1752 cm−1.

reactant | (E)-2-[[3-(3-hydroxy-4-methoxyphenyl)-1-oxo-2-propenyl]amino]benzoic acid | 1.6 mmol, 0.5 g | OC=1C=C(C=CC1OC)/C=C/C(=O)NC1=C(C(=O)O)C=CC=C1 | C17H15NO5
reactant | acetic anhydride | 3 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | (E)-2-(3-acetoxy-4-methoxystyryl)-4H-benzo[d][1,3]oxazin-4-one | 0.50 g, 93% | C(C)(=O)OC=1C=C(/C=C/C=2OC(C3=C(N2)C=CC=C3)=O)C=CC1OC | C19H15NO5
